US04496560
Crude 7-amino-2-benzhydryloxycarbonyl-3-(2-methylthiothiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (3.3 g) is dissolved in tetrahydrofuran (30 cc) and is then acylated with (thien-2-yl)-acetyl chloride (0.83 cc) in the presence of triethylamine (0.94 cc) in accordance with the working method described in Example 1. The crude product obtained is chromatographed on a column (height: 30 cm; diameter: 4 cm) of silica gel (0.04-0.06 mm), elution being carried out under a pressure of 1 bar (100 kPa), with a 70:30 (by volume) mixture of cyclohexane and ethyl acetate, and 50 cc fractions being collected. Fractions 16 to 27, containing the pure product, are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C., and the residue is triturated with isopropyl ether (30 cc). 2-Benzhydryloxycarbonyl-3-(2-methylthio-thiazol-5-yl)-8-oxo-7-(thien-2-yl-acetamido)-5-thia- 1-azabicyclo[4.2.0]oct-2-ene (1.6 g) is obtained in the form of a yellow solid.

reactant | 7-amino-2-benzhydryloxycarbonyl-3-(2-methylthiothiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 3.3 g | NC1C2SCC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CN=C(S1)SC | C24H21N3O3S3
reactant | (thien-2-yl)-acetyl chloride | 0.83 cc | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
reactant | triethylamine | 0.94 cc | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 cc | O1CCCC1 | C4H8O
product | 2-Benzhydryloxycarbonyl-3-(2-methylthio-thiazol-5-yl)-8-oxo-7-(thien-2-yl-acetamido)-5-thia- 1-azabicyclo[4.2.0]oct-2-ene | 1.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)SC)NC(CC=1SC=CC1)=O)=O | C30H25N3O4S4
